US06538004B2
4-(3-bromo-4-methylphenyl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
4-Methyl-3-bromobenzaldehyde (0.3 g, 1.5 mmol), prepared as described in (Pearson et al., J. Org. Chem. (1958) 23, 1412-1416), 1,3-cyclopentadione (0.15 g, 1.5 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.17 g, 1.5 mmol) were processed as described in Example 1 to provide 0.34 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.27 (s, 3H), 2.29 (t, 2H), 2.67 (m, 2H), 3.5 (s, 3H), 4.63 (s, 1H), 7.04 (dd, 1H), 7.18 (d, 1H), 7.29 (ds, 1H), 9.51 (bs, 1H), 10.37 (s, 1H); MS (ESI−) m/z 361 (M−H)−; Anal. calcd for C17H16N3BrO2: C, 54.54;H, 4.28; N, 11.23. Found: C, 54.30;H, 4.46;N, 10.94.

reactant | 4-Methyl-3-bromobenzaldehyde | 1.5 mmol, 0.3 g | CC1=C(C=C(C=O)C=C1)Br | C8H7BrO
reactant | 1,3-cyclopentadione | 1.5 mmol, 0.15 g | C1CC(=O)CC1=O | C5H6O2
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.17 g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-(3-bromo-4-methylphenyl)-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.34 g | BrC=1C=C(C=CC1C)C1C2=C(NC3=C1C(NN3C)=O)CCC2=O | C17H16BrN3O2
